US07585868B2
Synthesis of 1-benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (ZK147).
3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine (110 mg, 0.42 mmol) was dissolved in DMF (2 mL) and K2CO3 (220 mg, 1.6 mmol) and benzyl bromide (71.8 mg, 0.42 mmol) were added. The reaction was heated to 60° C. overnight, then cooled to RT and poured into water (30 mL). The precipitate was collected by filtration and then purified further by silica gel chromatography (5% MeOH/CH2Cl2) to yield a white solid.

reactant | 3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | 0.42 mmol, 110 mg | C1=C(C=CC2=CC=CC=C12)C1=NNC2=NC=NC(=C21)N | C15H11N5
reactant | K2CO3 | 1.6 mmol, 220 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | benzyl bromide | 0.42 mmol, 71.8 mg | C(C1=CC=CC=C1)Br | C7H7Br
reactant | water | 30 mL | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 1-benzyl-3-(naphthalen-2-yl)-1H-pyrazolo[3,4-d]pyrimidin-4-amine | C(C1=CC=CC=C1)N1N=C(C=2C1=NC=NC2N)C2=CC1=CC=CC=C1C=C2 | C22H17N5
